US05081287
Acetic anhydride, 54.0 grams (0.52 mole), was stirred, and one drop (catalyst) of methanesulfonic acid was added. To this was cautiously added dropwise 50.0 grams (0.32 mole) of 9-decen-1-ol. The addition caused an exothermic reaction which warmed the reaction mixture to 30° C. Upon completion of addition, the reaction mixture was warmed to 60° C. where it stirred for 18 hours. The reaction mixture was cooled and poured into 600 ml of ice/water. The mixture was stirred until the ice melted, and then the layers were separated. The aqueous layer was washed with one 300 ml portion of diethyl ether. The wash was combined with the organic layer, and the combination was washed repeatedly with aqueous 1N sodium hydroxide until the organic layer was basic. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was distilled under reduced pressure, yielding 57 grams of 9-decenyl acetate; b.p. 93°-95° C./1.5 mm. The nmr spectrum was consistent with the proposed structure.

reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 9-decen-1-ol | 0.32 mole, 50.0 grams | C(CCCCCCCC=C)O | C10H20O
catalyst | methanesulfonic acid | one drop | CS(=O)(=O)O | CH4O3S
product | 9-decenyl acetate | 57 grams | C(C)(=O)OCCCCCCCCC=C | C12H22O2
